US07030116B2
(R)-2-((S)-1-Hydroxy-2-morpholin-4-yl-2-oxo-ethyl)-5-phenyl-pentanoic acid[(S)-1-(oxazole-2-carbonyl)-propyl]-amide
It is similarly prepared according to the general procedure for Example 10 using (S)-2-Amino-1-oxazol-2-yl-butan-1-one; hydrochloride as the amino component and (R)-2-((S)-1-Hydroxy-2-morpholin-4-yl-2-oxo-ethyl)-5-phenyl-pentanoic acid as the acidic component but without further oxidation.

reactant | (S)-2-Amino-1-oxazol-2-yl-butan-1-one | N[C@H](C(=O)C=1OC=CN1)CC | C7H10N2O2
reactant | hydrochloride | Cl | ClH
reactant | (R)-2-((S)-1-Hydroxy-2-morpholin-4-yl-2-oxo-ethyl)-5-phenyl-pentanoic acid | O[C@H](C(=O)N1CCOCC1)[C@H](C(=O)O)CCCC1=CC=CC=C1 | C17H23NO5
product | (R)-2-((S)-1-Hydroxy-2-morpholin-4-yl-2-oxo-ethyl)-5-phenyl-pentanoic acid[(S)-1-(oxazole-2-carbonyl)-propyl]-amide | O1C(=NC=C1)C(=O)[C@H](CC)NC([C@H](CCCC1=CC=CC=C1)[C@@H](C(=O)N1CCOCC1)O)=O | C24H31N3O6
